US05451653
Preparation of Benzylidene i-Propylamine
To a three neck round bottom flask, equipped with a cold water condenser, 30 g of water and 26.5 g of benzaldehyde were added. The mixture was mixed using a magnetic stirrer for 3 minutes at room temperature. i-Propylamine (17.7 g) was added to the reaction flask in one portion, followed by vigorous stirring for 40 minutes. The agitation was stopped and the reaction mixture was allowed to stand for at least 15 minutes. The lower aqueous layer was separated from the reaction mixture. The upper layer was collected and dried over magnesium sulfate to give 38.9 g of product. This crude product could be further purified by distillation, collecting the fraction between 94°-95° C./18 mmHg. 1H NMR (300 Hz, CDCl3, ppm): 8.29 (1H, s), 7.70 (2H, m), 7.38 (3H, m), 3.53 (hep. J=6.3 Hz), 1.27 (9H, d, J=6.3 Hz); IR (NaCl film, cm-1): 3061, 3026, 2930, 2835, 1647, 1581, 1450, 1382, 1306, 1141,967, 755, 693.

reactant | benzaldehyde | 26.5 g | C(C1=CC=CC=C1)=O | C7H6O
reactant | i-Propylamine | 17.7 g | C(C)(C)N | C3H9N
solvent | water | 30 g | O | H2O
product | Benzylidene i-Propylamine | 38.9 g | C(C1=CC=CC=C1)=NC(C)C | C10H13N
